US06589970B2
3-Methyl-benzofuran-2-carboxylic acid (9.99 g, 56.7 mmol) in 150 mL of anhydrous THF was added under nitrogen dropwise to a solution of lithium diisopropylamide (60 mL of a 2.0 M solution in heptane/THF/ethylbenzene; 120 mmol) in 350 mL of anhydrous THF at −10° C. After the addition was complete the reaction was stirred at −10° C. for approximately 10 minutes. Benzyl bromide (13.5 mL, 113 mmol) was then added dropwise to the reaction. After the addition the reaction was allowed to warm to room temperature and then stirred at room temperature for 2 h. The reaction was acidified by the addition of 1 N HCl and then concentrated under reduced pressure to remove the THF. The residue was partitioned between 1 N HCl and methylene chloride. The aqueous layer was separated and extracted two times with methylene chloride. The combined extracts were dried (MgSO4) and the solvent removed under reduced pressure. The residue was recrystallized from ethyl acetate to give 3-phenethyl-benzofuran-2-carboxylic acid (1.62 g, 11%) as a white solid, mp 169-172° C.

reactant | 3-Methyl-benzofuran-2-carboxylic acid | 56.7 mmol, 9.99 g | CC1=C(OC2=C1C=CC=C2)C(=O)O | C10H8O3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | Benzyl bromide | 113 mmol, 13.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | heptane THF ethylbenzene | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | 3-phenethyl-benzofuran-2-carboxylic acid | 1.62 g, 11% | C(CC1=CC=CC=C1)C1=C(OC2=C1C=CC=C2)C(=O)O | C17H14O3
